US07115750B1
2-[(N,N-Dimethylamino)methyl]-6-[4-[(4-methoxyphenyl)carbonyloxy]benzyloxy]tetralin
Diethyl azodicarboxylate (40% toluene solution, 950 mg) was added dropwise to THF solution (3 ml) of 2-[(N,N-dimethylamino)methyl]-6-hydroxytetralin (150 mg), 4-(hydroxymethyl)phenyl 4-methoxybenzoate (570 mg) and triphenylphosphine (574 mg) at room temperature, which was stirred for 3 hours. The reaction mixture was concentrated, and the residue was purified using alumina column chromatography (development solvent; hexane˜hexane:ethyl acetate=6:1), and recrystallized (ethyl acetate-hexane) to give the titled compound (175 mg).

reactant | Diethyl azodicarboxylate | 950 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 2-[(N,N-dimethylamino)methyl]-6-hydroxytetralin | 150 mg | CN(C)CC1CC2=CC=C(C=C2CC1)O | C13H19NO
reactant | 4-(hydroxymethyl)phenyl 4-methoxybenzoate | 570 mg | COC1=CC=C(C(=O)OC2=CC=C(C=C2)CO)C=C1 | C15H14O4
reactant | triphenylphosphine | 574 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | 2-[(N,N-Dimethylamino)methyl]-6-[4-[(4-methoxyphenyl)carbonyloxy]benzyloxy]tetralin | 175 mg | CN(C)CC1CC2=CC=C(C=C2CC1)OCC1=CC=C(C=C1)OC(=O)C1=CC=C(C=C1)OC | C28H31NO4
